US08017604B2
Step 1: 2-Phenyl-imidazo[1,2-c]pyrimidin-7-ylamine
ω-Bromoacetophenone (9.04 g, 45 mmol) and NaHCO3 (4.30 g, 50 mmol) were added to a solution of 4,6-diaminopyrimidine (5.00 g, 0.45 mmol) in methanol (80 ml), and the mixture was heated to reflux (3 h). Upon cooling, water (40 ml) was added, and the suspension was stirred at r.t. (15 min). The precipitated title compound (5.62 g, 59%) was isolated by filtration, washed with small amounts of water and methanol, and dried under vacuum. MS (m/e)=211.1 [M+H+].

reactant | ω-Bromoacetophenone | 45 mmol, 9.04 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | NaHCO3 | 50 mmol, 4.30 g | C(=O)(O)[O-].[Na+]
reactant | 4,6-diaminopyrimidine | 0.45 mmol, 5.00 g | NC1=NC=NC(=C1)N | C4H6N4
reactant | water | 40 ml | O | H2O
solvent | methanol | 80 ml | CO | CH4O
product | 2-Phenyl-imidazo[1,2-c]pyrimidin-7-ylamine | C1(=CC=CC=C1)C=1N=C2N(C=NC(=C2)N)C1 | C12H10N4
